US07838673B2
Step 19C: 4-chloro-N-[1,1-dimethyl-2-({(1R)-2-(3-methylphenyl)-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]ethyl}amino)-2-oxoethyl]benzamide
To a solution of 4-chlorobenzoic acid (0.087 g, 0.553 mmol) in CH2Cl2 were added 2-amino-2-methyl-N-{(1R)-2-(3-methylphenyl)-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]ethyl}propanamide hydrochloride (0.20 g, 0.503 mmol), HOBt (0.075 g, 0.553 mmol), 4-methylmorpholine (0.204 g, 2.42 mmol) and EDCI (0.106 g, 0.553 mmol). The reaction mixture was allowed to stir at 22° C. After 12 h, the reaction mixture was quenched with a saturated solution of sodium bicarbonate and the product partitioned into DCM. The organic layer was dried over MgSO4, filtered and concentrated to give the title compound (0.210 g, 77%). LC/MS: Rt=2.29 min, ES+537 (Formic Acid method).

reactant | 4-chlorobenzoic acid | 0.553 mmol, 0.087 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | 2-amino-2-methyl-N-{(1R)-2-(3-methylphenyl)-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]ethyl}propanamide hydrochloride | 0.503 mmol, 0.20 g | Cl.NC(C(=O)N[C@@H](CC1=CC(=CC=C1)C)B1O[C@@]2([C@H](O1)C[C@H]1C([C@@H]2C1)(C)C)C)(C)C
reactant | HOBt | 0.553 mmol, 0.075 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-methylmorpholine | 2.42 mmol, 0.204 g | CN1CCOCC1 | C5H11NO
reactant | EDCI | 0.553 mmol, 0.106 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-[1,1-dimethyl-2-({(1R)-2-(3-methylphenyl)-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]ethyl}amino)-2-oxoethyl]benzamide | 0.210 g, 77% | ClC1=CC=C(C(=O)NC(C(=O)N[C@@H](CC2=CC(=CC=C2)C)B2O[C@@]3([C@H](O2)C[C@H]2C([C@@H]3C2)(C)C)C)(C)C)C=C1 | C30H38BClN2O4
